US06184225B2
2M Aqueous sodium hydroxide solution (620 μl) was added dropwise to a suspension of 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-6-methoxy-7-methoxyacetamidoquinazoline (275 mg, 0.62 mmol) in methanol (8 ml) at 5° C. and the mixture then stirred for 90 minutes at ambient temperature. The reaction mixture was diluted with water and adjusted to pH7 with 2M hydrochloric acid. The precipitated solid was collected by filtration, resuspended in ethanol and a 5M solution of hydrogen chloride in isopropanol (0.3 ml) added. The volatiles were removed from the resulting solution by evaporation and the solid washed with ether collected by filtration and dried under vacuum to give 4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxy-7-methoxyacetamidoquinazoline hydrochloride (216 mg, 82%).

reactant | sodium hydroxide | 2M, 620 μl | [OH-].[Na+]
reactant | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-6-methoxy-7-methoxyacetamidoquinazoline | 0.62 mmol, 275 mg | FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)NC(COC)=O)C=C(C(=C1)C)OC(=O)OC | C21H21FN4O6
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | methanol | 8 ml | CO | CH4O
solvent | water | O | H2O
product | 4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxy-7-methoxyacetamidoquinazoline hydrochloride | 216 mg, 82% | Cl.FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)NC(COC)=O)C=C(C(=C1)C)O | InChI=1S/C19H19FN4O4.ClH/c1-10-4-12(20)14(7-16(10)25)24-19-11-5-17(28-3)15(23-18(26)8-27-2)6-13(11)21-9-22-19;/h4-7,9,25H,8H2,1-3H3,(H,23,26)(H,21,22,24);1H
